US07674804B2
Piperidin-4-yl-(2,5,6-trichloro-pyrimidin-4-yl)-amine dihydrochloride
A solution of 4-(2,5,6-trichloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.85 g, 2.23 mmol) in 4 M HCl in dioxane (100 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 283.4 [M+H]−.

reactant | 4-(2,5,6-trichloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.23 mmol, 0.85 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1Cl)Cl)Cl | C14H19Cl3N4O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(2,5,6-trichloro-pyrimidin-4-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC(=NC(=C1Cl)Cl)Cl | InChI=1S/C9H11Cl3N4.2ClH/c10-6-7(11)15-9(12)16-8(6)14-5-1-3-13-4-2-5;;/h5,13H,1-4H2,(H,14,15,16);2*1H
